US07326799B2
Synthesis of (2S,3S)-N-butyl-3-azido-2-hydroxyheptanamide (Compound of the Formula VI)
A suspension of 30 ml of methanol containing 366 mg (1.84 mmol) of (2S-trans)-N-butyl-3-butyloxiranecarboxamide, 239 mg (3.68 mmol) of sodium azide and 228 mg (1.89 mmol) of anhydrous magnesium sulfate was refluxed for 5 hours. After the temperature of the reaction mixture was returned to room temperature, the reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the concentrate, and the resulting mixture was washed successively with water, and then a saturated NaCl solution. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography to obtain 304 mg (Yield: 68%) of the title compound.

reactant | methanol | 1.84 mmol, 30 ml, 366 mg | CO | CH4O
reactant | (2S-trans)-N-butyl-3-butyloxiranecarboxamide | C(CCC)NC(=O)[C@H]1O[C@@H]1CCCC | C11H21NO2
reactant | sodium azide | 3.68 mmol, 239 mg | [N-]=[N+]=[N-].[Na+]
reactant | magnesium sulfate | 1.89 mmol, 228 mg | S(=O)(=O)([O-])[O-].[Mg+2]
product | (2S,3S)-N-butyl-3-azido-2-hydroxyheptanamide | 304 mg, Yield: 68% | C(CCC)NC([C@H]([C@H](CCCC)N=[N+]=[N-])O)=O | C11H22N4O2
